US06958389B2
2,3,4-tri-O-acetyl-α-D-xylopyranosyl bromide
Acetic acid (6 mL) and a 30% hydrobromic acid-acetic acid solution (25 mL) were put in a 100 mL round bottom flask containing 1,2,3,4-tetra-O-acetyl β-D-xylose (5.0 g, 15.7 mmol) and stirred at room temperature for an hour. Chloroform (100 mL) was poured into the reaction mixture. The resulting mixture was washed with water (100 mL×2) and with a saturated aqueous solution of sodium hydrogen carbonate (100 mL×1), and dried over calcium chloride for 10 minutes. The resulting mixture was concentrated to 20 mL. To the resulting mixture, diethyl ether (8 mL) was added, followed by stirring. Petroleum ether (5 mL) was quietly added to the resulting mixture, which was cooled in the freezer for crystallization. The crystals are filtered by suction, washed with cold ether and dried to give the title compound. White acicular crystals. Yield 4.6 g, 87%. The product was unstable at room temperature, and stored in the freezer.

reactant | Acetic acid | 6 mL | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid acetic acid | 25 mL | Br.C(C)(=O)O
reactant | 1,2,3,4-tetra-O-acetyl β-D-xylose | 15.7 mmol, 5.0 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CO1 | C13H18O9
solvent | Chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,3,4-tri-O-acetyl-α-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1[C@H](OC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO7
